US04865619
2,4-Dimethoxy-3,5-dinitrochlorobenzene is reduced with iron in the presence of acetic acid, at a temperature of between 50° and 100° C. 2,4-Dimethoxy-3,5-diaminochlorobenzene is thereby obtained, and this is then subjected to a dehalogenation reaction. This reaction is performed in water, in a lower alcohol or in an aqueous-alcoholic mixture, in the presence of palladium on charcoal, ammonium acetate and triethylamine formate, at a temperature between 50° C. and the refluxing temperature of the solvent.

reactant | 2,4-Dimethoxy-3,5-dinitrochlorobenzene | COC1=C(C=C(C(=C1[N+](=O)[O-])OC)[N+](=O)[O-])Cl | C8H7ClN2O6
catalyst | iron | [Fe] | Fe
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,4-Dimethoxy-3,5-diaminochlorobenzene | COC1=C(C=C(C(=C1N)OC)N)Cl | C8H11ClN2O2
